US06635640B2
3-[5-Methyl-2-(2-oxo-4-pyridin-4-yl-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrol-3-yl]-propionic Acid
4-Pyridin-4-yl-1,3-dihydroindol-2-one was condensed with 3-(2-formyl-5-methyl-1H-pyrrol-3-yl)-propionic acid to give the title compound.

reactant | 4-Pyridin-4-yl-1,3-dihydroindol-2-one | N1=CC=C(C=C1)C1=C2CC(NC2=CC=C1)=O | C13H10N2O
reactant | 3-(2-formyl-5-methyl-1H-pyrrol-3-yl)-propionic acid | C(=O)C=1NC(=CC1CCC(=O)O)C | C9H11NO3
product | 3-[5-Methyl-2-(2-oxo-4-pyridin-4-yl-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrol-3-yl]-propionic Acid | CC1=CC(=C(N1)C=C1C(NC2=CC=CC(=C12)C1=CC=NC=C1)=O)CCC(=O)O | C22H19N3O3
